US07737166B2
6-Bromo-2-cyclopropyl-7-methoxy-5-methyl-1,3-benzoxazole-4-carbonitrile (I-83)
6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (4.88 g, 16.5 mmol) was suspended in a mixed solvent of methanol (30 ml) and N,N-dimethylformamide (50 ml), potassium carbonate (4.57 g, 33.0 mmol) was added, followed by stirring at 60° C. for 30 minutes. With cooling with ice, water was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, the solvent was evaporated away. The residue was suspended in a mixed solvent of methanol (30 ml) and N,N-dimethylformamide (50 ml), potassium carbonate (4.57 g, 33.0 mmol) was added, followed by again stirring at 60° C. for 14 hours. With cooling with ice, water was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, the solvent was evaporated away. The precipitated solid was washed with a mixed solvent of ethyl acetate/isopropyl ether and collected by filtration to obtain the entitled compound (2.599 g, 64%) as a colorless solid.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 16.5 mmol, 4.88 g | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | potassium carbonate | 33.0 mmol, 4.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 33.0 mmol, 4.57 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | methanol | 30 ml | CO | CH4O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | methanol | 30 ml | CO | CH4O
product | 6-Bromo-2-cyclopropyl-7-methoxy-5-methyl-1,3-benzoxazole-4-carbonitrile | 2.599 g, 64% | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)OC | C13H11BrN2O2
